US07528120B2
To a solution of (S)-4-hydroxymethyl-4-[2-(4-hydroxy-phenyl)-ethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (100 mg, 0.28 mmol) in DMF (5 ml) is added CsCO3 (120.5 mg, 0.37 mmol, 1.3 eq) and 1-(2-bromo-ethoxy)-3-fluoro-benzene (80.7 mg, 0.37 mmol, 1.3 eq). The reaction mixture is stirred at 85° C. for 4 hours. Ethyl acetate and water are then added, the organic layer is separated and the aqueous phase is extracted with ethylacetate (3×50 ml). The combined organic extracts are washed with brine, dried over MgSO4, and evaporated to dryness. Purification by flash chromatography (AcOEt/Hx 9:1) affords (S)-4-(2-{4-[2-(3-fluoro-phenoxy)-ethoxy]-phenyl}-ethyl)-4-hydroxymethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester as colorless oil.

reactant | (S)-4-hydroxymethyl-4-[2-(4-hydroxy-phenyl)-ethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.28 mmol, 100 mg | C(C)(C)(C)OC(=O)N1C(OC[C@]1(CCC1=CC=C(C=C1)O)CO)(C)C | C19H29NO5
reactant | 1-(2-bromo-ethoxy)-3-fluoro-benzene | 0.37 mmol, 80.7 mg, 1.3 eq | BrCCOC1=CC(=CC=C1)F | C8H8BrFO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)-4-(2-{4-[2-(3-fluoro-phenoxy)-ethoxy]-phenyl}-ethyl)-4-hydroxymethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@]1(CO)CCC1=CC=C(C=C1)OCCOC1=CC(=CC=C1)F)(C)C | C27H36FNO6
